US08372842B2
DIBAL-H (73.65 mL, 110.5 mmol, 1.5M in toluene) was added portionwise to a solution of tert-butyl 2,2-dimethyl-5-oxopyrrolidine-1-carboxylate (23.10 g, 108.3 mmol) in dry Et2O (200 mL) cooled to −78° C. The reaction was stirred for 1 hour at −78° C. and then allowed to warm to room temperature and stirred overnight. The reaction was quenched with NH4OH (50 mL) and stirred for 20 minutes. The reaction was then diluted with EtOAc (200 mL), 0.5M Rochelle's Salt (100 mL) was added, and the layers were separated. The organic fraction was washed with 0.5M Rochelle's Salt (2×100 mL), brine (100 mL), dried (MgSO4) and concentrated to an oil. The oil was taken up in a solution of p-TsOH monohydrate (2.06 g, 10.8 mmol) in MeOH (200 mL) and stirred overnight at room temperature. The reaction was then concentrated, taken up in EtOAc (200 mL), washed with saturated Na2CO3 (2×100 mL), brine (50 mL), dried (MgSO4) and concentrated to give tert-butyl 5-methoxy-2,2-dimethylpyrrolidine-1-carboxylate (24.07 g, 96.9% yield) as an oil.

reactant | DIBAL-H | 110.5 mmol, 1.5M, 73.65 mL | CC(C)C[AlH]CC(C)C
reactant | tert-butyl 2,2-dimethyl-5-oxopyrrolidine-1-carboxylate | 108.3 mmol, 23.10 g | CC1(N(C(CC1)=O)C(=O)OC(C)(C)C)C | C11H19NO3
solvent | Et2O | 200 mL | CCOCC | C4H10O
solvent | MeOH | 200 mL | CO | CH4O
product | tert-butyl 5-methoxy-2,2-dimethylpyrrolidine-1-carboxylate | 24.07 g, 96.9% yield | COC1CCC(N1C(=O)OC(C)(C)C)(C)C | C12H23NO3
